US08217069B2
Ethyl 4-methyl-5-nitropyridine-2-carboxylate
To concentrated sulfuric acid (45 mL) was added ethanol (100 mL) under ice-cooling, followed by adding 2-cyano-4-methyl-5-nitropyridine (3.54 g), and the reaction vessel was equipped with a reflux condenser, and the mixture was stirred at 120° C. for 2 hours. The reaction mixture was cooled to room temperature. The reaction mixture was poured into ice, and the resulting mixture was extracted with diethyl ether. The water layer was extracted with methylene chloride. The extracts were combined, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1) to give the title compound (3.23 g).

reactant | sulfuric acid | 45 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-cyano-4-methyl-5-nitropyridine | 3.54 g | C(#N)C1=NC=C(C(=C1)C)[N+](=O)[O-] | C7H5N3O2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 4-methyl-5-nitropyridine-2-carboxylate | 3.23 g | CC1=CC(=NC=C1[N+](=O)[O-])C(=O)OCC | C9H10N2O4
